US09193728B2
Preparation of 6-allyl-5-(2-(4-fluorophenyl)allyl)-2,8-dimethyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole
6-Bromo-5-(2-(4-fluorophenyl)allyl)-2,8-dimethyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole (185 mg, 0.23 mmol) and tetrakis(triphenylphosphine (5.3 mg, 0.046 mmol) were charged in a reaction bottle, which was evacuated and backfilled with nitrogen. Dry toluene (2 mL) was added under nitrogen and the flask purged with nitrogen for 2 min. Allyltributyltin (151 mg, 0.46 mmol) was added dropwise. The reaction mass was stirred at 100° C. overnight. The reaction mixture was concentrated under vacuum and purified on silica gel (100-200 mesh) using 0-3% MeOH:DCM as eluent. Yield: 30 mg.

reactant | 6-Bromo-5-(2-(4-fluorophenyl)allyl)-2,8-dimethyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | 0.23 mmol, 185 mg | BrC1=CC(=CC=2C3=C(N(C12)CC(=C)C1=CC=C(C=C1)F)CCN(C3)C)C | C22H22BrFN2
reactant | triphenylphosphine | 0.046 mmol, 5.3 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Allyltributyltin | 0.46 mmol, 151 mg | C(C=C)[Sn](CCCC)(CCCC)CCCC
catalyst | tetrakis | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 6-allyl-5-(2-(4-fluorophenyl)allyl)-2,8-dimethyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | C(C=C)C1=CC(=CC=2C3=C(N(C12)CC(=C)C1=CC=C(C=C1)F)CCN(C3)C)C | C25H27FN2
